*Oct 07, 2013
*ECN S13-2060, Rev. A
*File Name: Si2369DS_PS.txt, Si2369DS_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT Si2369DS D G S 
M1 3 GX S S PMOS W= 2390000u L= 0.25u 
M2 S GX S D NMOS W= 2390000u L= 2.741e-07 
R1 D 3 1.585e-02 TC=3.291e-03 -1.601e-06 
CGS GX S 7.547e-10 
CGD GX D 6.227e-11 
RG G GY 7.7 
RTCV 100 S 1e6 TC=-7.595e-04 -5.004e-07
ETCV GY GX 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
DBD D S DBD 2390000u 
**************************************************************** 
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 5e-8 
+ RS = 0 KP = 2.136e-06 NSUB = 2.096e+16 
+ KAPPA = 1.396e-02 NFS = 4.758e+11 
+ LD = 0 IS = 0 TPG = -1 ) 
*************************************************************** 
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 5e-8 
+NSUB = 1.944e+16 IS = 0 TPG = -1 ) 
**************************************************************** 
.MODEL DBD D ( 
+FC = 0.1 TT = 1.795e-08 T_MEASURED = 25 BV = 31 
+RS = 2.303e-02 N = 1.317e+00 IS = 1.600e-10 
+EG = 1.176e+00 XTI = 7.288e-02 TRS1 = 2.065e-03 
+CJO = 3.534e-11 VJ = 6.289e-01 M = 4.732e-01 ) 
.ENDS 
